US06107329
(±)-Methyl 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-butyrate
From 5-chloro-1H-indole-2-carboxylic acid and DL-β-methylphenylalanine methyl ester. mp 135-136° C.

reactant | 5-chloro-1H-indole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | β-methylphenylalanine methyl ester | COC([C@@H](N)C(C1=CC=CC=C1)C)=O | C11H15NO2
product | (±)-Methyl 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-butyrate | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)OC)C(C)C1=CC=CC=C1 | C20H19ClN2O3
